US04027026
A mixture of 2-[(2-aminoethyl)thiomethyl]pyridine (7.0 g.) and methyl isocyanate (2.7 g.) in acetonitrile was heated for 18 hours in a pressure vessel at 100°. After cooling, the solid obtained was collected and recrystallised from acetonitrile/ether to give N-methyl-N'-[2-(2-pyridylmethylthio)ethyl]urea m.p. 63°-66°.

reactant | 2-[(2-aminoethyl)thiomethyl]pyridine | 7.0 g | NCCSCC1=NC=CC=C1 | C8H12N2S
reactant | methyl isocyanate | 2.7 g | CN=C=O | C2H3NO
solvent | acetonitrile | C(C)#N | C2H3N
product | N-methyl-N'-[2-(2-pyridylmethylthio)ethyl]urea | CNC(=O)NCCSCC1=NC=CC=C1 | C10H15N3OS
